### PR TITLE
feat: missing order results on `IGame`

### PR DESCRIPTION
**Pull request by vihdzp**
We prove that addition and subtraction on `IGame` respect equivalence. This means the `PGame` file has now been completely ported (save for the stuff on inserting/removing options), and we can start work on redefining `Game` in terms of `IGame`.

### CODE REVIEW

File: CombinatorialGames/IGame/IGame.lean [hunk 1]
```diff
@@ -301,25 +301,22 @@ theorem lf_def {x y : IGame} : x ⧏ y ↔
   rw [lf_iff_exists_le]
   congr! <;> rw [le_iff_forall_lf]
 
-theorem lf_of_le_of_mem_leftMoves {x y z : IGame} (h : x ≤ y) (h' : z ∈ x.leftMoves) : z ⧏ y :=
+theorem leftMove_lf_of_le {x y z : IGame} (h : x ≤ y) (h' : z ∈ x.leftMoves) : z ⧏ y :=
```
Comment (vihdzp) [inline CombinatorialGames/IGame/IGame.lean:304]: My previous theorem names were pretty confusing. These new ones don't quite adhere to strict Mathlib convention, but they should hopefully be a bit clearer.

File: CombinatorialGames/IGame/IGame.lean [hunk 2]
```diff
@@ -501,13 +500,33 @@ theorem rightMoves_add (x y : IGame) :
...
+theorem add_right_mem_rightMoves_add {x y : IGame} (h : x ∈ y.rightMoves) (z : IGame) :
+    x + z ∈ (y + z).rightMoves := by
+  rw [rightMoves_add]; left; use x
+
 instance : AddZeroClass IGame := by
   constructor <;>
   · intro x
     induction x using ofSetsRecOn with | H s t IHl IHr =>
     rw [add_eq]
     aesop
```
Comment (tristan-f-r) [inline CombinatorialGames/IGame/IGame.lean]: `simp_all` works here!

```suggestion
    simp_all
```

**Review by LeoDog896 — APPROVED** [review]
